US06936602B1
To a solution of methyl 1-(2-methoxybenzyl)-7-(4-propoxyethoxyphenyl)-2,3-dihydro-1-benzazepine-4-carboxylate (394 mg) in a mixture of tetrahydrofuran (24 ml) and methanol (24 ml) was added 1N sodium hydroxide solution (8 ml), and the mixture was stirred at room temperature for 1 day. Then, to the mixture was added water at 0° C., and 1N hydrochloric acid was further added to make acidic (pH=4), and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried with magnesium sulfate. The solvent was evaporated under reduced pressure, and the resulting solid was recrystallized from hexane-ethyl acetate to give 1-(2-methoxybenzyl)-7-(4-propoxyethoxyphenyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid (217 mg) as yellow crystals.

reactant | methyl 1-(2-methoxybenzyl)-7-(4-propoxyethoxyphenyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 394 mg | COC1=C(CN2CCC(=CC3=C2C=CC(=C3)C3=CC=C(C=C3)OCCOCCC)C(=O)OC)C=CC=C1 | C31H35NO5
reactant | sodium hydroxide | 1N, 8 ml | [OH-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
solvent | methanol | 24 ml | CO | CH4O
product | 1-(2-methoxybenzyl)-7-(4-propoxyethoxyphenyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid | 217 mg | COC1=C(CN2CCC(=CC3=C2C=CC(=C3)C3=CC=C(C=C3)OCCOCCC)C(=O)O)C=CC=C1 | C30H33NO5
